US04910190
a. 4-Oxo-4-(phenylmethylamino)butanoic acid
A mixture of benzyl amine (10.7 g) and succinic anhydride (10 g) was stirred in THF (1 liter) for 2 days. The solid was filtered and dissolved in 1N NaOH (110 ml). The aqueous phase was washed with Et2O and then made acidic with conc HCl while cooling in an ice-water bath. The solid was collected, washed with water and dried under high vacuum. There was obtained 10.9 g (53%) of the title compound as a white powder m.p. 137.5°-138°.

reactant | benzyl amine | 10.7 g | C(C1=CC=CC=C1)N | C7H9N
reactant | succinic anhydride | 10 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | THF | 1 liter | C1CCOC1 | C4H8O
product | 4-Oxo-4-(phenylmethylamino)butanoic acid | 10.9 g, 53% | O=C(CCC(=O)O)NCC1=CC=CC=C1 | C11H13NO3
